US08012980B2
(3R)-tert-butyl 4-((6-(5-(cyclopropylcarbamoyl)-3-fluoro-2-methylphenyl)-2-(3-hydroxy-2,2-dimethylpropyl)-1-oxo-1,2-dihydroisoquinolin-4-yl)-methyl)-3-methylpiperazine-1-carboxylate
(3R)-tert-Butyl 4-((6-(5-(cyclopropylcarbamoyl)-3-fluoro-2-methylphenyl)-2-(2,2-dimethyl-3-(pivaloyloxy)propyl)-1-oxo-1,2-dihydroisoquinolin-4-yl)methyl)-3-methylpiperazine-1-carboxylate (50.8 g) was dissolved in methanol (600 mL) and a solution of potassium carbonate (29.3 g) in water (100 mL) was added. The reaction was heated at reflux (internal temperature 67° C.) for 16 h. After cooling to 50° C., further water was slowly added until the mixture became opaque and the mixture was cooled to 23° C. over 1 h. The precipitate was collected by filtration, washed with water (100 mL) and isohexane (100 mL) and dried in vacuo at 45° C. to give the subtitle product (32.4 g).

reactant | (3R)-tert-Butyl 4-((6-(5-(cyclopropylcarbamoyl)-3-fluoro-2-methylphenyl)-2-(2,2-dimethyl-3-(pivaloyloxy)propyl)-1-oxo-1,2-dihydroisoquinolin-4-yl)methyl)-3-methylpiperazine-1-carboxylate | 50.8 g | C1(CC1)NC(=O)C=1C=C(C(=C(C1)C=1C=C2C(=CN(C(C2=CC1)=O)CC(COC(C(C)(C)C)=O)(C)C)CN1[C@@H](CN(CC1)C(=O)OC(C)(C)C)C)C)F | C41H55FN4O6
reactant | potassium carbonate | 29.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 600 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | (3R)-tert-butyl 4-((6-(5-(cyclopropylcarbamoyl)-3-fluoro-2-methylphenyl)-2-(3-hydroxy-2,2-dimethylpropyl)-1-oxo-1,2-dihydroisoquinolin-4-yl)-methyl)-3-methylpiperazine-1-carboxylate | 32.4 g | C1(CC1)NC(=O)C=1C=C(C(=C(C1)C=1C=C2C(=CN(C(C2=CC1)=O)CC(CO)(C)C)CN1[C@@H](CN(CC1)C(=O)OC(C)(C)C)C)C)F | C36H47FN4O5
